US04463172
To 250 ml of CH2Cl2 containing 6.7 ml of pyridine at 20° C. was added 4.2 g of CrO3, and after stirring for 1 hour, a solution of 2.6 g of diphenylmethyl 7-(2-thienylacetamido)-2-methyl-3-hydroxymethylceph-2-em-4-carboxylate in 30 ml of CH2Cl2 was added to the mixture, followed by stirring vigorously for 5 minutes. 100 ml of 1M citric acid solution was added to the reaction solution, followed by stirring to separate out the CH2Cl2 layer. The CH2Cl2 layer was washed with H2O and saturated aqueous NaCl solution, successively, and dried over MgSO4, followed by distilling off the CH2Cl2 under reduced pressure. The residue was added on a column of silica gel, and the fractions eluted with CH2Cl2.ACOEt (20:1) were collected to distill off the solvent under reduced pressure, thus yielding 938 mg (36.2%) of diphenylmethyl 7-(2-thienylacetamido)-2-methyl-3-formylceph-2-em-4-carboxylate.

reactant | pyridine | N1=CC=CC=C1 | C5H5N
reactant | diphenylmethyl 7-(2-thienylacetamido)-2-methyl-3-hydroxymethylceph-2-em-4-carboxylate | 2.6 g | S1C(=CC=C1)CC(=O)NC1[C@@H]2N(C(C(=C(S2)C)CO)C(=O)OC(C2=CC=CC=C2)C2=CC=CC=C2)C1=O | C28H26N2O5S2
reactant | citric acid | 1M, 100 ml | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
solvent | CH2Cl2 | 30 ml | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 250 ml | C(Cl)Cl | CH2Cl2
product | diphenylmethyl 7-(2-thienylacetamido)-2-methyl-3-formylceph-2-em-4-carboxylate | 938 mg, 36.2% | S1C(=CC=C1)CC(=O)NC1[C@@H]2N(C(C(=C(S2)C)C=O)C(=O)OC(C2=CC=CC=C2)C2=CC=CC=C2)C1=O | C28H24N2O5S2
